US06709772B2
The obtained solution of 9,10-dilithioanthracene was dropped into a solution prepared from 61.4 g (0.476 mol) of dichlorodimethylsilane and 40 ml of dried diethyl ether as a solvent, in a 1L-volume flask for 2 hours using a separating funnel. After the solution was stirred for 44 hours at room temperature and salt yielded by reaction was removed by means of filtration, the remaining filtrate was concentrated to remove the solvent of the filtrate using an evaporator. The residue was recrystallized in n-pentane to obtain 5.6 g (yield: 13%) of yellow 9,10-bis(chlorodimethylsilyl)anthracene.

reactant | 9,10-dilithioanthracene | [Li]C=1C2=CC=CC=C2C(=C2C=CC=CC12)[Li]
reactant | dichlorodimethylsilane | 0.476 mol, 61.4 g | Cl[Si](C)(C)Cl | C2H6Cl2Si
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 9,10-bis(chlorodimethylsilyl)anthracene | 5.6 g, yield: 13% | Cl[Si](C=1C2=CC=CC=C2C(=C2C=CC=CC12)[Si](C)(C)Cl)(C)C | C18H20Cl2Si2
